US05563163
Acetonitrile (3 ml), followed by N,N-diisopropylethylamine (0.26 ml, 1.5 mmol) were added to 3,5-dimethylisoxazole-4-carboxylic acid (0.21 g, 1.5 mmol). The mixture was stirred for 5 minutes, then 2-chloromethyl-4-isopropyl-6-methoxysaccharin (0.30 g, 1 mmol) was added. The reaction mixture was stirred at room temperature for 18 hours, diluted with ethyl acetate (75 ml) and washed with saturated NaHCO3. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by preparative layer chromatography eluting with CH2Cl2 (100%) to afford 0.041 g (10%) of 4-isopropyl-6-methoxy-2-saccharinylmethyl 3,5-dimethylisoxazole-4-carboxylate as a white solid, m.p. 136.8°-139.1° C.

reactant | Acetonitrile | 3 ml | C(C)#N | C2H3N
reactant | N,N-diisopropylethylamine | 1.5 mmol, 0.26 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,5-dimethylisoxazole-4-carboxylic acid | 1.5 mmol, 0.21 g | CC1=NOC(=C1C(=O)O)C | C6H7NO3
reactant | 2-chloromethyl-4-isopropyl-6-methoxysaccharin | 1 mmol, 0.30 g | ClCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OC | C12H14ClNO4S
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 4-isopropyl-6-methoxy-2-saccharinylmethyl 3,5-dimethylisoxazole-4-carboxylate | 0.041 g, 10% | CC1=NOC(=C1C(=O)OCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OC)C | C18H20N2O7S
